US04352805
A mixture of 0.67 g of 3-(3,4-dimethoxyphenyl)-1-propanethiol, 1.0 g of bromoacetaldehyde diethylacetal, 0.16 ml of trifluoroacetic acid, and 25 ml. of nitromethane as solvent is stirred at room temperature for 1 hour, stored overnight in the freezer, and then heated at 70° for 2 hours after an additional 0.05 ml trifluoroacetic acid is added. After cooling, the reaction mixture is extracted with methylene chloride and aqueous sodium bicarbonate. The organic layer is taken to dryness, and the residue is chromatographed one time on silica gel with methylene chloride as eluent and a second time with 10% ethyl acetate/Skellysolve B as eluent to yield 7,8-di-methoxy-1-bromomethyl-1,3,4,5-tetrahydro-2-benzothiepin.

reactant | 3-(3,4-dimethoxyphenyl)-1-propanethiol | 0.67 g | COC=1C=C(C=CC1OC)CCCS | C11H16O2S
reactant | bromoacetaldehyde diethylacetal | 1.0 g | C(C)OC(CBr)OCC | C6H13BrO2
reactant | trifluoroacetic acid | 0.16 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 0.05 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 7,8-di-methoxy-1-bromomethyl-1,3,4,5-tetrahydro-2-benzothiepin | COC=1C(=CC2=C(CCCSC2CBr)C1)OC | C13H17BrO2S
